US05082838
9-Formyl-7-propyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione
The Vilsmeier reagent prepared from phosphorus oxychloride (3.7 ml) and DMF (6.2 ml) was added dropwise to a solution of 7-propyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione (6 g) in DMF (38 ml) with stirring under ice cooling. The reaction solution was stirred at room temperature for 3 hours and then, poured on ice water. The mixture was stirred for a while and the precipitated crystals were recrystallized from ethyl acetate to give colorless crystals (6.46 g, 95%).

reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | phosphorus oxychloride | 3.7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-propyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione | 6 g | C(CC)N1C(N2C(SCCC2)=CC1=O)=O | C10H14N2O2S
reactant | DMF | 38 ml | CN(C)C=O | C3H7NO
reactant | DMF | 6.2 ml | CN(C)C=O | C3H7NO
product | 9-Formyl-7-propyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione | 6.46 g, 95% | C(=O)C=1C(N(C(N2C1SCCC2)=O)CCC)=O | C11H14N2O3S
